US04279918
2-[(4-biphenylyl)cyanomethylene)pyrrolidine
Stir 32.7 g of 2-methoxypyrroline, 63.8 g of 4-phenylbenzylcyanide and 5 g of 1,5-diazabicyclo[5,4,0]undec-5-ene for 26 hours at 110°. After cooling, take up the mixture with 500 ml of diethyl ether. Filter the formed precipitate and recrystallize it from 400 ml of ethanol with activated charcoal to obtain 12.2 g (14% of theory) of the title compound (m.p. 168° to 170°).

reactant | 2-methoxypyrroline | 32.7 g | COC=1NCCC1 | C5H9NO
reactant | 4-phenylbenzylcyanide | 63.8 g | C1(=CC=CC=C1)C1=CC=C(CC#N)C=C1 | C14H11N
reactant | 1,5-diazabicyclo[5,4,0]undec-5-ene | 5 g | N12CCCN=CC2CCCC1 | C9H16N2
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | 2-[(4-biphenylyl)cyanomethylene)pyrrolidine | C1(=CC=C(C=C1)C(=C1NCCC1)C#N)C1=CC=CC=C1 | C18H16N2
